* SPICE3 file created from cascoded_opamp_pmos.ext - technology: sky130A

.subckt cascoded_opamp_pmos Vbp Vminus Vplus Vbn Vcn Vout GND VDD
X0 a_n40_0# Vcn a_900_n1300# GND sky130_fd_pr__nfet_01v8 ad=2.1 pd=7.4 as=2.1 ps=7.4 w=3 l=0.5
X1 Vout Vcn a_0_n1300# GND sky130_fd_pr__nfet_01v8 ad=2.1 pd=7.4 as=2.1 ps=7.4 w=3 l=0.5
X2 VDD a_n40_0# a_n40_0# VDD sky130_fd_pr__pfet_01v8 ad=2.1 pd=7.4 as=2.1 ps=7.4 w=3 l=0.5
X3 a_1620_n1380# Vminus a_0_n1300# VDD sky130_fd_pr__pfet_01v8 ad=2.1 pd=7.4 as=2.1 ps=7.4 w=3 l=0.5
X4 VDD Vbp a_1620_n1380# VDD sky130_fd_pr__pfet_01v8 ad=2.1 pd=7.4 as=2.1 ps=7.4 w=3 l=0.5
X5 a_900_n1300# Vplus a_1620_n1380# VDD sky130_fd_pr__pfet_01v8 ad=2.1 pd=7.4 as=2.1 ps=7.4 w=3 l=0.5
X6 a_0_n1300# Vbn GND GND sky130_fd_pr__nfet_01v8 ad=2.1 pd=7.4 as=2.1 ps=7.4 w=3 l=0.5
X7 VDD a_n40_0# Vout VDD sky130_fd_pr__pfet_01v8 ad=2.1 pd=7.4 as=2.1 ps=7.4 w=3 l=0.5
X8 a_900_n1300# Vbn GND GND sky130_fd_pr__nfet_01v8 ad=2.1 pd=7.4 as=2.1 ps=7.4 w=3 l=0.5
.ends

